US07109340B2
9 ml of an aqueous 5N hydrochloric acid solution are added to a solution of 1.7 g of tert-butyl 3-(2-amino-4,5-dimethylphenylcarbamoyl)-2,4,5,7-tetrahydropyrazolo[3,4-c]pyridine-6-carboxylate in 40 ml of ethanol. After stirring at 80° C. for 60 hours, the reaction medium is brought back to ambient temperature. The precipitate formed is recovered by filtration through sintered glass and dried. 1.04 g of 3-(5,6-dimethyl-1H-benzimidazol-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine hydrochloride are thus obtained in the form of a beige powder, the characteristics of which are as follows:

reactant | hydrochloric acid | 5N | Cl | ClH
reactant | tert-butyl 3-(2-amino-4,5-dimethylphenylcarbamoyl)-2,4,5,7-tetrahydropyrazolo[3,4-c]pyridine-6-carboxylate | 1.7 g | NC1=C(C=C(C(=C1)C)C)NC(=O)C=1NN=C2CN(CCC21)C(=O)OC(C)(C)C | C20H27N5O3
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-(5,6-dimethyl-1H-benzimidazol-2-yl)-4,5,6,7-tetrahydro-2H-pyrazolo[3,4-c]pyridine hydrochloride | 1.04 g | Cl.CC1=CC2=C(NC(=N2)C=2NN=C3CNCCC32)C=C1C | InChI=1S/C15H17N5.ClH/c1-8-5-11-12(6-9(8)2)18-15(17-11)14-10-3-4-16-7-13(10)19-20-14;/h5-6,16H,3-4,7H2,1-2H3,(H,17,18)(H,19,20);1H
